US07262185B2
An aqueous solution of 1-methyl-5-nitro-2-(((1-propylimidazol-5-yl)methyl)sulfanyl)benzimidazole (700 mg), reduced iron (0.6 g) and anhydrous calcium chloride (1.18 g) in 85% ethanol (15 ml) was stirred for 1 day under nitrogen atmosphere at 105° C. The mixture was allowed to be at room temperature, the insolubles were filtered off, water was added to the mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the obtained residue was purified by silica gel column chromatography (methanol:ethyl acetate=1:8) to give 5-amino-1-methyl-2-(((1-propylimidazol-5-yl)methyl)sulfanyl)benzimidazole (123 mg) as brown oil.

reactant | 1-methyl-5-nitro-2-(((1-propylimidazol-5-yl)methyl)sulfanyl)benzimidazole | 700 mg | CN1C(=NC2=C1C=CC(=C2)[N+](=O)[O-])SCC2=CN=CN2CCC | C15H17N5O2S
reactant | calcium chloride | 1.18 g | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-amino-1-methyl-2-(((1-propylimidazol-5-yl)methyl)sulfanyl)benzimidazole | 123 mg | NC1=CC2=C(N(C(=N2)SCC2=CN=CN2CCC)C)C=C1 | C15H19N5S
